US06121308
1-hydroxycarbonylmethyl-2-[(4-amidinophenyl)-oxymethyl]-6-[N-(2-dimethylaminoethyl)-methanesulphonylamino]-benzimidazole
Prepared analogously to Example 3 from 1-ethoxycarbonylmethyl-2-[(4-amidinophenyl)-oxymethyl]-6-[N-(2-dimethylaminoethyl)-methanesulphonylamino]-benzimidazole and sodium hydroxide solution.

reactant | 1-ethoxycarbonylmethyl-2-[(4-amidinophenyl)-oxymethyl]-6-[N-(2-dimethylaminoethyl)-methanesulphonylamino]-benzimidazole | C(C)OC(=O)CN1C(=NC2=C1C=C(C=C2)N(CCN(C)C)S(=O)(=O)C)COC2=CC=C(C=C2)C(N)=N | C24H32N6O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-hydroxycarbonylmethyl-2-[(4-amidinophenyl)-oxymethyl]-6-[N-(2-dimethylaminoethyl)-methanesulphonylamino]-benzimidazole | OC(=O)CN1C(=NC2=C1C=C(C=C2)N(CCN(C)C)S(=O)(=O)C)COC2=CC=C(C=C2)C(N)=N | C22H28N6O5S
